US07579368B2
i) 2-piperazin-1-yl-1-piperidin-1-yl-ethanone
The title compound was prepared from 1-tert-butyloxycarbonyl-piperazine, chloroacetylchloride and piperidine in an analogous manner as described in example 21.

reactant | 1-tert-butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-piperazin-1-yl-1-piperidin-1-yl-ethanone | N1(CCNCC1)CC(=O)N1CCCCC1 | C11H21N3O
